US07504390B2
To a solution of 3-(hydroxymethyl)morpholine (345 mg; 2.95 mmol) in dichloromethane (10 mL) was carefully added 2-fluorobenzoyl chloride (0.35 mL; 2.95 mmol) and triethylamine (0.62 mL; 4.42 mmol) and the reaction stirred for 0.5 h. The product was combined with 4 N NaOH (10 mL) to hydrolyse any ester and the organic layer extracted (dichloromethane, 3×). The combined organic layers were dried (Na2SO4) and the solvent evaporated to give an oil, which was purified by flash column chromatography on silica (gradient elution, dichloromethane-methanol 1:0 to 9:1) to give 4-(2-fluorobenzoyl)-3-(hydroxymethyl)morpholine (165 mg; 0.69 mmol), EIMS: m/z=240.2 (M+H)+. This product and caesium carbonate (0.544 g) were heated to 120° C. in dimethylformamide (10 ml) solution under nitrogen for 4 hours. The solvent was evaporated, and the residue taken up in water and extracted with dichloromethane (3×). The combined dichloromethane extracts were dried (Na2SO4) and the solvent evaporated to give a crude solid which was purified by flash column chromatography on silica, eluting with ether to give the title compound (77 mg). M.p. 105-107° C.; EIMS: m/z=220.2 (M+H)+.

reactant | 3-(hydroxymethyl)morpholine | 2.95 mmol, 345 mg | OCC1NCCOC1 | C5H11NO2
reactant | 2-fluorobenzoyl chloride | 2.95 mmol, 0.35 mL | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | triethylamine | 4.42 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | 4 N, 10 mL | [OH-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(2-fluorobenzoyl)-3-(hydroxymethyl)morpholine | 0.69 mmol, 165 mg | FC1=C(C(=O)N2C(COCC2)CO)C=CC=C1 | C12H14FNO3
